US08912188B2
To a solution of methyl 2-(6-fluoro-1-benzofuran-2-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate (78 mg, 0.19 mmol) in methanol (25 mL) and water (5 mL) was added sodium hydroxide (23 mg, 0.57 mmol) with stirring overnight at room temperature. The reaction mixture was concentrated under vacuum, dissolved in water (10 mL), adjusted to pH 5 with HCl (3N) to give the precipitate, which was collected by filtration to afford (S)-2-(6-fluorobenzofuran-2-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid (37.3 mg, 52%).

reactant | methyl 2-(6-fluoro-1-benzofuran-2-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate | 0.19 mmol, 78 mg | FC1=CC2=C(C=C(O2)C2=NC3=CC=C(C=C3N=C2N2[C@H](CCC2)C)C(=O)OC)C=C1 | C23H20FN3O3
reactant | sodium hydroxide | 0.57 mmol, 23 mg | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | (S)-2-(6-fluorobenzofuran-2-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid | 37.3 mg, 52% | FC1=CC2=C(C=C(O2)C2=NC3=CC=C(C=C3N=C2N2[C@H](CCC2)C)C(=O)O)C=C1 | C22H18FN3O3
